US04518596
2-Piperazino-4,8-bis-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 118 from 2-chloro-4,8-bis-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine (m.p.: 295°-297° C.) and piperazine.

reactant | 2-chloro-4,8-bis-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)N2CCS(CC2)=O)N2CCS(CC2)=O | C14H17ClN6O2S2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 2-Piperazino-4,8-bis-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | N1(CCNCC1)C=1N=C(C2=C(N1)C(=NC=N2)N2CCS(CC2)=O)N2CCS(CC2)=O | C18H26N8O2S2
